US08293911B2
Step B: N-[4-(6-Chloro-3,4-dihydro-1H-isoquinolin-2-yl)-2,6-dimethyl-phenyl]-3,3-dimethyl butanamide
Bis(dibenzylidineacetone)palladium (2 mg, 0.0035 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (3.3 mg, 0.0084 mmol) were added to dry toluene (5 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (188 mg, 1.7 mmol), 6-chloro-1,2,3,4-tetrahydro isoquinoline hydrochloride salt (165 mg, 0.8 mmol), and N-(4-bromo-2,6-dimethylphenyl)-3,3-dimethylbutanamide (200 mg, 0.67 mmol) were then added, and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was then cooled to room temperature and filtered through silica gel. Purification by preparative thin layer chromatography afforded the title compound as a solid.

reactant | Potassium tert-butoxide | 1.7 mmol, 188 mg | CC(C)([O-])C.[K+]
reactant | 6-chloro-1,2,3,4-tetrahydro isoquinoline hydrochloride salt | 0.8 mmol, 165 mg | Cl.ClC=1C=C2CCNCC2=CC1
reactant | N-(4-bromo-2,6-dimethylphenyl)-3,3-dimethylbutanamide | 0.67 mmol, 200 mg | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-[4-(6-Chloro-3,4-dihydro-1H-isoquinolin-2-yl)-2,6-dimethyl-phenyl]-3,3-dimethyl butanamide | ClC=1C=C2CCN(CC2=CC1)C1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C23H29ClN2O
